US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(pyridin-4-yl)benzamido)-4-(2-methoxyphenyl)benzoate (0.094 g) in ethyl acetate (2.5 mL) and methanol (3.5 mL), 10% palladium-carbon (19 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. To the reaction mixture, 10% palladium-carbon (19 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. The insoluble substance was removed by filtration, and the residue was washed with ethyl acetate and tetrahydrofuran. The filtrate and the washing liquid were combined, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), PSQ100B(spherical), eluent: 65-45% hexane/ethyl acetate] to obtain tert-butyl 2-(2-hydroxy-5-(pyridin-4-yl)benzamido)-4-(2-methoxyphenyl)benzoate.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(pyridin-4-yl)benzamido)-4-(2-methoxyphenyl)benzoate | 0.094 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)OC)C=C(C=C1)C1=CC=NC=C1 | C37H34N2O5
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3.5 mL | CO | CH4O
catalyst | palladium-carbon | 19 mg | [C].[Pd]
catalyst | palladium-carbon | 19 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(pyridin-4-yl)benzamido)-4-(2-methoxyphenyl)benzoate | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=C(C=CC=C2)OC)C=C(C=C1)C1=CC=NC=C1 | C30H28N2O5
